US09388181B2
A mixture of methyl 3-(3-((dimethylamino)methylene)-4-oxopiperidin-1-yl)benzoate (0.145 g, 0.503 mmol) and tert-Butyl (5-amino-1H-pyrazol-3-yl)carbamate (0.150 g, 0.756 mmol) in EtOH (4.0 mL) was stirred at 80° C. for 20 h. The mixture was cooled and concentrated. The residue was washed with MTBE and hexanes. Dried under high vacuum. A mixture of the title compound and methyl 3-(2-((tert-butoxycarbonyl)amino)-5,6-dihydropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-7(8H)-yl)benzoate was afforded, which was separated by prep HPLC to afford the title compound (0.011 g) and methyl 3-(2-((tert-butoxycarbonyl)amino)-5,6-dihydropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-7(8H)-yl)benzoate (0.050 g). Prep HPLC Method: Phenomex Luna 100×21.2 mm, 10 μM, C(18) column; Gradient of 55% H2O and 45% CH3CN; Flow Rate 1 mL/min.; uv @215 nm.

reactant | methyl 3-(3-((dimethylamino)methylene)-4-oxopiperidin-1-yl)benzoate | 0.503 mmol, 0.145 g | CN(C)C=C1CN(CCC1=O)C=1C=C(C(=O)OC)C=CC1 | C16H20N2O3
reactant | tert-Butyl (5-amino-1H-pyrazol-3-yl)carbamate | 0.756 mmol, 0.150 g | NC1=CC(=NN1)NC(OC(C)(C)C)=O | C8H14N4O2
solvent | EtOH | 4.0 mL | CCO | C2H6O
product | methyl 3-(2-((tert-butoxycarbonyl)amino)-5,6-dihydropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-7(8H)-yl)benzoate | C(C)(C)(C)OC(=O)NC1=NN2C(N=C3C(=C2)CN(CC3)C=3C=C(C(=O)OC)C=CC3)=C1 | C22H25N5O4
